US06759420B1
h) [3-(4-Carbamimidoyl-phenyl)-2-(R,S)-cyclohexyl-propionylamino]-(S)-cyclohexyl-acetic acid hydrochloric acid salt
[3-(4-Carbamimidoyl-phenyl)-2-(R,S)-cyclohexyl-propionylamino]-(S)-cyclohexyl-acetic acid methyl ester acetic acid salt was dissolved in a mixture of hydrochloric acid (100 ml), water (100 ml) and acetic acid (50 ml) within 1 hour. After 15 hours stirring at room temperature and 8 hours at 50° C., the mixture was evaporated and after addition of water lyophilized to yield a diastereomeric mixture (2.7 g, 72% step g and h) of the desired product. MS m/z: 414.3 (M+H)+.

reactant | [3-(4-Carbamimidoyl-phenyl)-2-(R,S)-cyclohexyl-propionylamino]-(S)-cyclohexyl-acetic acid methyl ester acetic acid salt | C(C)(=O)O.COC([C@H](C1CCCCC1)NC(C(CC1=CC=C(C=C1)C(N)=N)C1CCCCC1)=O)=O
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | [3-(4-Carbamimidoyl-phenyl)-2-(R,S)-cyclohexyl-propionylamino]-(S)-cyclohexyl-acetic acid hydrochloric acid salt | Cl.C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N[C@H](C(=O)O)C1CCCCC1)C1CCCCC1 | InChI=1S/C24H35N3O3.ClH/c25-22(26)19-13-11-16(12-14-19)15-20(17-7-3-1-4-8-17)23(28)27-21(24(29)30)18-9-5-2-6-10-18;/h11-14,17-18,20-21H,1-10,15H2,(H3,25,26)(H,27,28)(H,29,30);1H/t20?,21-;/m0./s1
